US04539324
1-[4-(Tetrahydropyran-2-yloxymethyl)benzyloxy]methyl-5-chloropyrimidin-2-on
Chloromethyl 4-(tetrahydropyran-2-yloxymethyl)benzyl ether (see Preparation 12) (4.7 mmol) in dichloromethane (40 ml) was added dropwise with stirring to a solution of 5-chloropyrimidin-2-one (4.7 mmol) and triethylamine (4.7 mmol) in dichloromethane (10 ml). The mixture was stirred at room temperature for 2 hours and was then washed with water, the organic solution dried (MgSO4) and the solvent distilled off to yield a crude product in 89% yield (1.53 g), which was extracted with ether and the residual material purified on neutral alumina eluting with dichloromethane and subsequently with 10% MeOH in dichloromethane; yield 0.42 g (26%) of the non-crystalline title compound. 1H NMR (CDCl3): δ1.4-2.0 (6H, m, THP), 3.3-4.3 (2H, m), 4.5-4.9 (2CH2, CH), 5.37 (NCH2), 7.38 (Ph), 7.88 and 8.53 (H-4, H-6, J 4 Hz).

reactant | Chloromethyl 4-(tetrahydropyran-2-yloxymethyl)benzyl ether | 4.7 mmol | O1C(CCCC1)OCC1=CC=C(COCCl)C=C1 | C14H19ClO3
reactant | 5-chloropyrimidin-2-one | 4.7 mmol | ClC=1C=NC(NC1)=O | C4H3ClN2O
reactant | triethylamine | 4.7 mmol | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-[4-(Tetrahydropyran-2-yloxymethyl)benzyloxy]methyl-5-chloropyrimidin-2-on | 89% yield | O1C(CCCC1)OCC1=CC=C(COCN2C(N=CC(=C2)Cl)=O)C=C1 | C18H21ClN2O4
